US05840749
To a stirring solution of 13.06 g of N-methylhydroxylamine hydrochloride in 250 ml of absolute ethanol was added 17.48 g of potassium tert-butoxide. To the resulting suspension was added 9.0 g of 3-(6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl)propanol methanesulfonate. The resulting product suspension was allowed to reflux for 24 hours and was then cooled to room temperature. The suspension was filtered to remove potassium chloride, and the mother liquor was then treated with 200 ml of water and concentrated in vacuo to remove ethanol. The resulting mixture was partitioned against a total of 450 ml of methylene chloride and 250 ml of water. The organic phase was washed with 250 ml of saturated sodium chloride solution, dried (Na2SO4), filtered, and concentrated in vacuo to a viscous oil which solidified upon triturating the oil, with 10 ml of ethyl acetate and 3 drops of hexane and refrigerating. Thin layer analysis of the solids indicated a mixture, which was separated via HPLC (silica gel). The purified oil solidified upon standing to give 4.03 g of 3-(6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl)-N-hydroxy-N-methyl-1-propylamine m.p. 113°-114.5° C.

reactant | N-methylhydroxylamine hydrochloride | 13.06 g | Cl.CNO
reactant | potassium tert-butoxide | 17.48 g | CC(C)([O-])C.[K+]
reactant | 3-(6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl)propanol methanesulfonate | 9.0 g | CS(=O)(=O)OCCCC1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C18H18O5S
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-(6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl)-N-hydroxy-N-methyl-1-propylamine | 4.03 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CCCN(C)O | C18H19NO3
